US06359134B1
To a mixture of aqueous sodium hydrogen carbonate (10 ml) solution, 1-tert-butoxycarbonylpiperazine (1.0 g) and ethyl acetate (10 ml), was added 6-chloronaphthalene-2-sulfonylchloride (1.4 g) and the mixture was stirred at room temperature for 1 hour and extracted with dichloromethane. The extract was washed with water, dried and concentrated. The residue was crystallized from diisopropylether to give colorless crystals of 1-(tert-butoxycarbonyl)-4-(6-chloro-naphthalene-2-sulfonyl)piperazine (2.02 g).

reactant | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
reactant | 1-tert-butoxycarbonylpiperazine | 1.0 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 6-chloronaphthalene-2-sulfonylchloride | 1.4 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)Cl | C10H6Cl2O2S
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 1-(tert-butoxycarbonyl)-4-(6-chloro-naphthalene-2-sulfonyl)piperazine | 2.02 g | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl | C19H23ClN2O4S
